US07067640B1
a) Preparation of parapent-4-enoxybenzoic Acid
2 g of sodium hydroxide, 15 ml of distilled water, 7.6 g of methyl 4-hydroxybenzoate, 0.16 g of tetrabutylammonium bromide and 5.92 ml of 5-bromopent-1-ene were successively placed in a reactor. Vigorous stirring was maintained overnight at ambient temperature. After adding 30 ml of a 2.5 M sodium hydroxide solution, the reaction medium was heated to 60–80° C. for 90 minutes. It was then diluted with 120 ml of distilled water and extracted with two times 50 ml of diethyl ether. The aqueous phase was acidified with 10 ml of concentrated hydrochloric acid to precipitate the acid. After filtering, washing with distilled water and drying in a dessicator over P2O5, the acid was obtained in a yield of 93%.

reactant | sodium hydroxide | 2 g | [OH-].[Na+]
reactant | methyl 4-hydroxybenzoate | 7.6 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 5-bromopent-1-ene | 5.92 ml | BrCCCC=C | C5H9Br
reactant | sodium hydroxide | 2.5 M | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 0.16 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 120 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | parapent-4-enoxybenzoic Acid | yield of 93% | C(CCC=C)OC1=CC=C(C(=O)O)C=C1 | C12H14O3
